US08193182B2
Synthesis of 3-((6-amino-9H-purin-9-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (Compound 1902)
9H-Purin-6-amine (1901)(540 mg, 4.0 mmol) was dissolved in anhydrous DMF (20 mL). NaH (60% in mineral oil, 160 mg, 4.0 mmol) was added and the resulting mixture was stirred at RT for 30 min. 3-(Bromomethyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1610)(1.37 g, 4.0 mmol) was added. The reaction mixture was stirred at RT for 30 min, poured into ice-water (30 mL) and then extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with brine (25 mL), dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (2-20% MeOH/DCM) to afford the desired product, 3-((6-amino-9H-purin-9-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1902)(1.1 g, 70% yield) as a white solid.

reactant | 9H-Purin-6-amine | 4.0 mmol, 540 mg | N1=CN=C2NC=NC2=C1N | C5H5N5
reactant | NaH | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | 3-(Bromomethyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 4.0 mmol, 1.37 g | BrCC=1N(C(C2=C(C=CC=C2C1)C)=O)C1=C(C=CC=C1)C | C18H16BrNO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-((6-amino-9H-purin-9-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 1.1 g, 70% yield | NC1=C2N=CN(C2=NC=N1)CC=1N(C(C2=C(C=CC=C2C1)C)=O)C1=C(C=CC=C1)C | C23H20N6O
